US04139617
To a solution of lithium tri-t-butoxyaluminum hydride in tetrahydrofuran is added a tetrahydrofuran solution of 17β,19-dihydroxy-1α,7α-dimethyl-5-androsten-3-one diacetate. The resulting mixture is stirred at 20° C. for a period of 18 hours after which is added an aqueous solution of sodium potassium tartrate. The mixture is filtered and concentrated to a small volume under reduced pressure. The concentrate is taken up in ether and washed well with water. The combined ether extracts are dried over magnesium sulfate, filtered and the ether removed under vacuum to yield a residue which when crystallized from a mixture of acetone-hexane results in the preparation of the desired 1α,7α-dimethyl-androst-5-ene-3β,17β,19-triol 17,19-diacetate.

reactant | lithium tri-t-butoxyaluminum hydride | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | 17β,19-dihydroxy-1α,7α-dimethyl-5-androsten-3-one diacetate | C(C)(=O)O.C(C)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C=C3CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O)C
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1α,7α-dimethyl-androst-5-ene-3β,17β,19-triol 17,19-diacetate | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C=C3C[C@H](C[C@@H]([C@]3(COC(C)=O)[C@H]1CC2)C)O)C | C25H38O5
